US07915261B2
A 4 M hydrogen chloride/EtOAc solution (2 ml) was added to an EtOAc (10 ml) solution of tert-butyl 4-{2-[1-(6-methylpyridin-2-yl)piperidin-4-yl]ethyl}piperidine-1-carboxylate (650 mg), followed by stirring at room temperature for 2 days. The reaction liquid was concentrated to obtain 2-methyl-6-[4-(2-piperidin-4-ylethyl)piperidin-1-yl]pyridine dihydrochloride (644 mg) as a yellow amorphous substance.

reactant | hydrogen chloride EtOAc | 4 M, 2 ml | Cl.CCOC(=O)C
reactant | tert-butyl 4-{2-[1-(6-methylpyridin-2-yl)piperidin-4-yl]ethyl}piperidine-1-carboxylate | 650 mg | CC1=CC=CC(=N1)N1CCC(CC1)CCC1CCN(CC1)C(=O)OC(C)(C)C | C23H37N3O2
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | 2-methyl-6-[4-(2-piperidin-4-ylethyl)piperidin-1-yl]pyridine dihydrochloride | 644 mg | Cl.Cl.CC1=NC(=CC=C1)N1CCC(CC1)CCC1CCNCC1 | InChI=1S/C18H29N3.2ClH/c1-15-3-2-4-18(20-15)21-13-9-17(10-14-21)6-5-16-7-11-19-12-8-16;;/h2-4,16-17,19H,5-14H2,1H3;2*1H
